US06441197B1
(g) 4,5-Diamino-3′,6′-bis(acetyloxy)-2′,7′-difluoro-spiro[isobenzofuran -1(3H),9′-[9H]-xanthen]-3-one (7: DAF-FM DA)
Acetic anhydride (52 ml, 0.55 mmol) was added to DAF-FM (94 mg, 0.23 mmol) and Cs2CO3 (84 mg, 0.26 mmol) suspended in acetonitrile (20 ml), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (84 mg, 75%). The product was further recrystallized from 2-isopropanol to obtain the title compound.

reactant | Acetic anhydride | 0.55 mmol, 52 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-amino-5-(N-methylamino)-2′,7′-difluoro-3′,6′-dihydroxy-spiro[isobenzofuran-1(3H),9′-[9H]xanthen]-3-one | 0.23 mmol, 94 mg | NC1=C2C(OC3(C4=CC(=C(C=C4OC=4C=C(C(=CC34)F)O)O)F)C2=CC=C1NC)=O | C21H14F2N2O5
reactant | Cs2CO3 | 0.26 mmol, 84 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4,5-Diamino-3′,6′-bis(acetyloxy)-2′,7′-difluoro-spiro[isobenzofuran -1(3H),9′-[9H]-xanthen]-3-one | NC1=C2C(OC3(C4=CC(=C(C=C4OC=4C=C(C(=CC34)F)OC(C)=O)OC(C)=O)F)C2=CC=C1N)=O | C24H16F2N2O7
